### PR TITLE
feat: `edist_chainingSequence` lemmas

### PR DESCRIPTION
**Pull request by TwoFX**
Is there some fancy tactic that derives `ENNReal.sum_geometric_two_le` directly from `sum_geometric_two_le`?

### CODE REVIEW

File: BrownianMotion/Continuity/Chaining.lean [hunk 1]
```diff
@@ -106,38 +111,68 @@ lemma chainingSequence_of_eq (hC : ∀ i, IsCover (C i) (ε i) A) (hxA : x ∈ C
...
     (n : ℕ) (hn : n ≤ k) :
     chainingSequence hC hxA n ∈ C n := by
   simp only [chainingSequence, hn, ↓reduceIte]
   convert chainingSequenceReverse_mem hC hA hxA
   omega
 
-lemma edist_chainingSequence_add_one (hC : ∀ i, IsCover (C i) (ε i) A) (hxA : x ∈ C k)
-    (n : ℕ) (hn : n < k) :
+lemma edist_chainingSequence_add_one (hC : ∀ i, IsCover (C i) (ε i) A)
+    (hCA : ∀ i, (C i : Set E) ⊆ A)(hxA : x ∈ C k) (n : ℕ) (hn : n < k) :
```
Comment (RemyDegenne) [inline BrownianMotion/Continuity/Chaining.lean:129]:
```suggestion
    (hCA : ∀ i, (C i : Set E) ⊆ A) (hxA : x ∈ C k) (n : ℕ) (hn : n < k) :
```

File: BrownianMotion/Continuity/Chaining.lean [hunk 2]
```diff
@@ -106,38 +111,68 @@ lemma chainingSequence_of_eq (hC : ∀ i, IsCover (C i) (ε i) A) (hxA : x ∈ C
...
     edist (chainingSequence hC hxA (n + 1)) (chainingSequence hC hxA n) ≤ ε n := by
-  sorry
+  rw [chainingSequence_of_lt _ _ hn]
+  apply edist_nearestPt_of_isCover (hC n)
+  exact hCA (n + 1) (chainingSequence_mem _ ⟨x, hCA k hxA⟩ _ _ (by omega))
 
-lemma edist_chainingSequence_le_sum (hC : ∀ i, IsCover (C i) (ε i) A) (hxA : x ∈ C k)
-    (m : ℕ) (hm : m ≤ k) :
+lemma edist_chainingSequence_le_sum (hC : ∀ i, IsCover (C i) (ε i) A) (hCA : ∀ i, (C i : Set E) ⊆ A)
+    (hxA : x ∈ C k) (m : ℕ)  (hm : m ≤ k) :
```
Comment (RemyDegenne) [inline BrownianMotion/Continuity/Chaining.lean:136]:
```suggestion
    (hxA : x ∈ C k) (m : ℕ) (hm : m ≤ k) :
```

**Review by RemyDegenne — APPROVED** [review]
This is great, thanks!
